data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_334017_0,[C:1]1([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C@@:3]2([H:10])[C:4]([H:11])([H:12])[C:2]([C:7]([H:19])([H:20])[H:21])([C:8]([H:22])([H:23])[H:24])[N:9]12>>[C:1]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])=[N:9][C@:3]1([H:10])[C:2]([C:7]([H:19])([H:20])[H:21])([C:8]([H:22])([H:23])[H:24])[C:4]1([H:11])[H:12],58.45539000001367
MR_322501_0,[C:1](/[N:8]=[C:6](\[C:3]([H:17])([H:18])[H:19])[N:4]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])[O:7][H:10])([H:11])([H:12])[H:13]>>[C:1]([N:8]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])/[C:6]([C:3]([H:17])([H:18])[H:19])=[N:4]/[O:7][H:10])([H:11])([H:12])[H:13],33.350997500011914
MR_373573_1,[C:1]1([H:11])([H:12])[C:2]([O:5][H:8])=[C:3]([N:4]([H:9])[H:10])[N:6]=[N:7]1>>[C:1]1([H:11])([H:12])[C:2]2([O:5][H:8])[C:3]([N:4]([H:9])[H:10])=[N:6][N:7]12,69.53641250000146
MR_371196_0,[C:1](/[C:3](=[C:2](/[O:6][H:9])[H:11])[H:12])([O:4][H:7])([O:5][H:8])[H:10]>>[C:1]1([O:4][H:7])([H:10])[C:2]([O:6][H:9])([H:11])[C:3]1([O:5][H:8])[H:12],73.19159999997567
MR_344905_0,[C:1]1([C:4]([H:20])([H:21])[H:22])([H:11])[C:7]([N:5]([C:2]([H:14])([H:15])[H:16])[N:8]([H:12])[H:13])([N:6]([C:3]([H:17])([H:18])[H:19])[H:10])[O:9]1>>[C:1]([C:4]([H:20])([H:21])[H:22])([N:6]([C:3]([H:17])([H:18])[H:19])[H:10])([C:7]([N:5]([C:2]([H:14])([H:15])[H:16])[N:8]([H:12])[H:13])=[O:9])[H:11],53.93550750001111
MR_434261_1,[C:1](/[C:3](=[C:5](/[O:7][H:10])[H:13])[O:6]/[C:2]([C:4](=[O:9])[H:12])=[N:8]/[H:11])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([C:5]([C:4](=[O:9])[H:12])([O:7][H:10])[H:13])/[C:2](=[N:8]\[H:11])[O:6]1)([H:14])([H:15])[H:16],72.1399099999914
MR_420567_1,[C:1]([C:2]([O:6][H:12])=[O:8])([C:3]([O:7][H:13])=[O:9])([O:4][H:10])[O:5][H:11]>>[C:1](=[C:2]([O:6][H:12])[O:8][C:3]([O:7][H:13])=[O:9])([O:4][H:10])[O:5][H:11],67.18516999994534
MR_369424_0,[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:6](/[C:5]1([O:8][H:11])[C:4]([C:3]([H:17])([H:18])[H:19])([O:7][H:10])[O:9]1)[H:13])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:6](=[C:5](\[C:4]([O:7][H:10])=[O:9])[O:8][H:11])[H:13])[H:12],60.71501750001573
MR_188317_1,[C:1](/[C:2]([O:4][H:6])=[N:5]\[H:7])([N:3]([H:8])[H:9])([H:10])[H:11]>>[C:1]1([N:3]([H:8])[H:9])([H:10])[C:2]([O:4][H:6])([H:11])[N:5]1[H:7],61.329340000034165
MR_101400_0,[C:1](/[N:8]=[C:5]([C:2]([H:15])([H:16])[H:17])/[C:4]([N:6]([H:9])[H:10])=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:8]1[C:5]([C:2]([H:15])([H:16])[H:17])=[C:4]([N:6]([H:9])[H:10])[C:7]1([C:3]([H:18])([H:19])[H:20])[H:11])([H:12])([H:13])[H:14],48.46057000003
MR_659820_1,[C:1]([O:3]/[C:2]([O:4][H:7])=[N:6]/[H:9])([O:5][H:8])([H:10])[H:11]>>[C:1]([O:5][H:8])([N:6]([C:2](=[O:3])[O:4][H:7])[H:9])([H:10])[H:11],40.03889249999816
MR_230706_0,[N:1]([C:2]([O:6][H:10])=[O:7])([C:3]([N:4]([H:11])[H:12])=[O:8])[O:5][H:9]>>[N:1](=[C:3](\[N:4]([H:11])[H:12])[O:8][C:2]([O:6][H:10])=[O:7])\[O:5][H:9],48.11858250003738
MR_225459_0,[C:1]([N:3]([O:6][H:7])[H:8])([N:4]([H:10])[H:11])([O:5][C:2]([H:12])([H:13])[H:14])[H:9]>>[C:1]([N:3]([O:5][C:2]([H:12])([H:13])[H:14])[H:8])([N:4]([H:10])[H:11])([O:6][H:7])[H:9],63.50613749999568
MR_605541_0,[C:1](\[C:2]([H:12])([H:13])[H:14])(=[N:6]\[C:4]([N:3]([H:9])[H:10])([O:5][H:7])[H:11])[H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([O:5][H:7])(/[N:6]=[C:4](/[N:3]([H:9])[H:10])[H:11])[H:8],46.098032499966735
MR_333826_0,[C@@:1]([C:3]([O:6][H:10])=[O:9])(/[C:4](=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:14])[O:8][H:12])([O:7][H:11])[H:13]>>[C:1](=[C:4](\[C@:5]([C:2]([H:15])([H:16])[H:17])([C:3]([O:6][H:10])=[O:9])[H:14])[O:8][H:12])(\[O:7][H:11])[H:13],72.4078525000283
MR_108362_0,[C:1]1([H:11])([H:12])[C:3](=[O:7])[N:2]([H:8])[C:4]([N:5]([H:9])[H:10])=[N:6]1>>[C:1]1([H:11])([H:12])[C:3](=[O:7])[N:6]1/[C:4](=[N:2]/[H:8])[N:5]([H:9])[H:10],64.92303249998528
MR_246992_1,[N:1](/[C:3](=[N:6]/[C:4](=[C:2](/[O:5][H:7])[H:10])[H:12])[H:11])([H:8])[H:9]>>[N:1]([C:3]1([H:11])[C:2]([O:5][H:7])([H:10])[C:4]([H:12])=[N:6]1)([H:8])[H:9],39.155372500017336
MR_218157_1,[C:1](/[C:3]([N:4]([H:8])[H:9])=[N:7]\[H:10])(/[N:5]=[N:6]/[C:2]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:1](=[N:5][N:6]([C:2]([H:13])([H:14])[H:15])/[C:3]([N:4]([H:8])[H:9])=[N:7]\[H:10])([H:11])[H:12],69.85769249997503
MR_358699_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[C:5]([C:4]([H:20])([H:21])[H:22])[C:8]([N:6]([H:9])[H:10])([N:7]([H:11])[H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])(/[C:5]([C:4]([H:20])([H:21])[H:22])=[C:8](/[N:7]([H:11])[H:12])[H:13])[N:6]([H:9])[H:10],58.01237499999076
MR_111763_1,[C:1]1([O:6][H:9])([H:10])[C:2]([N:3]([H:11])[H:12])([O:4][O:5][H:8])[N:7]1[H:13]>>[C:1](/[C:2]([N:3]([H:11])[H:12])=[N:7]\[H:13])([O:4][O:5][H:8])([O:6][H:9])[H:10],27.91496500000392
MR_92788_0,[C:1](/[C:3](=[C:4](/[C:2]([H:13])([H:14])[H:15])[H:12])[O:7][H:9])([O:5][O:6][H:8])([H:10])[H:11]>>[C:1](=[C:3]([C@:4]([C:2]([H:13])([H:14])[H:15])([O:5][O:6][H:8])[H:12])[O:7][H:9])([H:10])[H:11],51.5735975000176
